US08030302B2
tert-Butyl 5-(5-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate
To a solution of tert-butyl 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate (260 mg, 519 μmol) in EtOH (25 mL) and EtOAc (25 mL) is added Pd/C (100 mg, 10% wt) under N2. The resulting mixture is degassed by evacuation and backfilled with nitrogen. Then the reaction mixture is stirred at RT under H2 atmosphere for 6 hours. The reaction mixture is filtered. The filtrate is concentrated to give the product (200 mg, 93.8% yield). MS (m/z): 411.1 (M+H).

reactant | tert-butyl 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate | 519 μmol, 260 mg | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1C=1C=CC(=NC1)NC(OC(C)(C)C)=O)C1OCCCC1 | C29H32N4O4
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | tert-Butyl 5-(5-hydroxy-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate | 200 mg, 93.8% yield | OC=1C=C2C=NN(C2=CC1C=1C=CC(=NC1)NC(OC(C)(C)C)=O)C1OCCCC1 | C22H26N4O4
